US05288693
Example 5: Preparation of 2,5-Dimethoxyphenyl vinyl carbinol
A solution of 2,5-dimethoxybenzaldehye (12.0 g, 0.072 mole) in 50 ml of dry THF was added dropwise to 100 ml of 1M solution of vinyl magnesium bromide in THF while keeping the reaction mixture at room temperature with cooling. The mixture was stirred for 4 hours at room temperature and then quenched with saturated NH4Cl solution. The layers were separated and the aqueous portion was extracted with diethyl ether. The combined organic portion was washed with water, dried (MgSO4), and concentrated. The resulting oil, 13.4 g, was sufficiently pure for the next reaction; IR (neat) 3500 cm-1); NMR (CDCl3) δ6.7-7.0 (m,3H); 6.0-6.2 (m, 1H); 5.1-5.3 (m,3H); 3.75 (two singlets, 6H); 3.16 (br,1H).

reactant | 2,5-dimethoxybenzaldehye | 0.072 mole, 12.0 g | COC1=C(C=O)C=C(C=C1)OC | C9H10O3
reactant | vinyl magnesium bromide | C(=C)[Mg]Br
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2,5-Dimethoxyphenyl vinyl carbinol | COC1=C(C=C(C=C1)OC)C(O)C=C | C11H14O3
